US05434160
To a stirred suspension of 5-hydroxyisoquinoline (2.90 g) and 3,4-dimethoxy benzylidenemalononitrile (4.28 g) in ethanol (11 ml) was added dropwise piperidine (1.70 g). The suspension was then heated at reflux temperature for one hour forming a red solution. This was then allowed to cool to room temperature, depositing a brown solid. This was filtered off and washed with ethanol and ether and dried in vacuo at 60° C., yielding 2-amino-4-(3,4-dimethoxyphenyl)- 4H-pyrano[2,3-f] isoquinoline-3-carbonitrile as a yellow-brown solid, m.p. 225°-228° C.

reactant | 5-hydroxyisoquinoline | 2.90 g | OC1=C2C=CN=CC2=CC=C1 | C9H7NO
reactant | 3,4-dimethoxy benzylidenemalononitrile | 4.28 g | COC=1C=C(C=C(C#N)C#N)C=CC1OC | C12H10N2O2
reactant | piperidine | 1.70 g | N1CCCCC1 | C5H11N
solvent | ethanol | 11 ml | C(C)O | C2H6O
product | 2-amino-4-(3,4-dimethoxyphenyl)- 4H-pyrano[2,3-f] isoquinoline-3-carbonitrile | NC1=C(C(C=2C(=C3C=CN=CC3=CC2)O1)C1=CC(=C(C=C1)OC)OC)C#N | C21H17N3O3
